US07635700B2
A mixture of 2-amino-6-nitro-benzoic acid (1.5 g, 8.2 mmol) in acetic anhydride (15 mL) was heated at 200° C. for 30 minutes in a microwave oven. The mixture was filtered and washed with ethyl acetate (20 mL). The filtrate was concentrated in vacuo. The solid was stirred in ether (20 mL) for 2 hours. The suspension was filtered and washed with ether (20 mL) to give 2-methyl-5-nitro-benzo[d][1,3]oxazin-4-one as a light brown solid (1.4 g, 85% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, CH3CN/0.1% H3PO4, 5% grad 95% in 5 min, 5.36 min (92%); 1H NMR (DMSO-d6) δ 2.42 (s, 3H, CH3), 7.79 (dd, J=1, 8 Hz, 1H, Ar), 7.93 (dd, J=1, 8 Hz, 1H, Ar), 8.06 (t, J=8 Hz, 1H, Ar); 13C NMR (DMSO-d6) δ 20.87, 107.79, 121.54, 128.87, 137.19, 147.12, 148.46, 155.18, 161.78; LCMS: MH=207.

reactant | 2-amino-6-nitro-benzoic acid | 8.2 mmol, 1.5 g | NC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C7H6N2O4
reactant | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-5-nitro-benzo[d][1,3]oxazin-4-one | 1.4 g, 85% yield | CC=1OC(C2=C(N1)C=CC=C2[N+](=O)[O-])=O | C9H6N2O4
